US07504410B2
5-Bromo-4-(2-(1H-imidazol-4-yl)-ethylamino)-2-(4-pyrrolidin-1-ylmethyl-phenylamino)-pyrimidine
A mixture of 5-bromo-4-(2-(1H-imidazol-4-yl)-ethylamino)-2-chloro-pyrimidine (60 mg), 4-pyrrolidin-1-ylmethyl-phenylamine (35 mg) and hydrochloric acid (37% in water, 40 μL) in methanol (2 mL) was refluxed overnight. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution, the organic phase dried (Na2SO4) and evaporated, which gave, after chromatography on silica using dichloromethane/methanol, the title compound (4 mg).

reactant | 5-bromo-4-(2-(1H-imidazol-4-yl)-ethylamino)-2-chloro-pyrimidine | 60 mg | BrC=1C(=NC(=NC1)Cl)NCCC=1N=CNC1 | C9H9BrClN5
reactant | 4-pyrrolidin-1-ylmethyl-phenylamine | 35 mg | N1(CCCC1)CC1=CC=C(C=C1)N | C11H16N2
reactant | hydrochloric acid | 40 μL | Cl | ClH
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | 2 mL | CO | CH4O
product | 5-Bromo-4-(2-(1H-imidazol-4-yl)-ethylamino)-2-(4-pyrrolidin-1-ylmethyl-phenylamino)-pyrimidine | 4 mg | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)CN1CCCC1)NCCC=1N=CNC1 | C20H24BrN7
